US08957203B2
Step 3: Preparation of (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid
To a solution of (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (700 mg, 1.6 mmole) in DMSO was added 1-chloro-4-ethoxyisoquinoline (420 mg, 2.0 mmole), prepared above, followed by t-BuOK (1M sol. in THF, 8 mL, 8 mmole) at room temperature under nitrogen atmosphere. The reaction mass was stirred at room temperature for 4 h. The reaction mass was quenched with aqueous citric acid solution and extracted with ethyl acetate. The combined organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to get crude compound. The crude compound was purified by combiflash to get desired product (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid (600 mg, 64%) as off-white solid. MS: MS m/z 585.1 (M++1).

reactant | (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 1.6 mmole, 700 mg | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
reactant | 1-chloro-4-ethoxyisoquinoline | 2.0 mmole, 420 mg | ClC1=NC=C(C2=CC=CC=C12)OCC | C11H10ClNO
reactant | t-BuOK | 8 mmole, 1M, 8 mL | CC(C)(C)[O-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-((4-ethoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxylic acid | 600 mg, 64% | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)OC1=NC=C(C2=CC=CC=C12)OCC)C(=O)O)[C@@H](CC(CCC=C)C)C | C32H45N3O7
